US05298652
A solution of 0.90 g (1.3 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine methyl ester and 1.0 ml (6 mmol) of 6N NaOH in 80 ml of methanol and 35 ml of dioxane was stirred at reflux for 6 hours. The solvents were removed at reduced pressure, the residue was acidified and the product was removed by filtration. Recrystallization from ethyl acetate-hexane gave 0.51 g (59% yield, mp 84°-87° ) of N-(carboxymethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine methyl ester | 1.3 mmol, 0.90 g | COC(CN(C(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C41H71NO7
reactant | NaOH | 6 mmol, 6N, 1.0 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | N-(carboxymethyl)-N-[3,4-bis(tetradecyloxy)benzoyl]glycine | 0.51 g, 59% yield | C(=O)(O)CN(CC(=O)O)C(C1=CC(=C(C=C1)OCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O | C39H67NO7
